* C:\Users\gallo.HOTMETAL\Documents\Pitt Spring 2022\SailBot 22\PCB_2021-2022\Spice Simz\BMS1.asc
R1 N001 N010 20k
R2 N010 N013 20k
D9 N002 P001 D
D10 P001 P002 D
D11 P002 P003 D
D12 P003 N003 D
Q4 N002 N007 N001 0 PNP
R9 N001 N007 1k
R10 N002 P004 330
D13 P004 N003 D
R13 N003 N013 20k
R3 N003 N011 20k
R4 N011 N014 20k
D1 N004 P005 D
D2 P005 P006 D
D3 P006 P007 D
D4 P007 N005 D
Q1 N004 N008 N003 0 PNP
R5 N003 N008 1k
R6 N004 P008 330
D5 P008 N005 D
R7 N005 N014 20k
R8 N005 N012 20k
R11 N012 N015 20k
D6 N006 P009 D
D7 P009 P010 D
D8 P010 P011 D
D14 P011 0 D
Q2 N006 N009 N005 0 PNP
R12 N005 N009 1k
R14 N006 P012 330
D15 P012 0 D
R15 0 N015 20k
R16 N001 N023 20k
R17 N023 N024 20k
R20 N025 N024 15k
M1 N019 N022 P013 P013 NMOS
M2 N001 N019 N016 N016 PMOS
R19 N016 N019 100k
R18 P013 0 1000k
M3 N020 N022 P014 P014 NMOS
M4 N003 N020 N017 N017 PMOS
R22 N017 N020 100k
R23 P014 0 1000k
M5 N021 N022 P015 P015 NMOS
M6 N005 N021 N018 N018 PMOS
R24 N018 N021 100k
R25 P015 0 1000k
V2 N016 N003 4.6
V3 N017 N005 4.2
V4 N018 0 4.2
XU2 N023 N022 N025 TL431
XU3 N003 N007 N010 TL431
XU4 N028 N026 N027 LM317
R21 N026 0 4.7k
R26 N027 N026 550
R27 N001 N027 2
XU1 N005 N008 N011 TL431
XU5 0 N009 N012 TL431
R28 0 N028 1k
.model D D
.lib C:\Users\gallo.HOTMETAL\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\gallo.HOTMETAL\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\gallo.HOTMETAL\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 0.1 0 0.001 startup
,include C:\Users\gallo.HOTMETAL\Documents\LTspiceXVII\lib\tl431.mod
.model A D(Ron=1 Roff=1Meg Vfwd=1 Vrev=2)
.lib LM317.sub
.backanno
.end
